US07825253B2
3,5-Difluoro-N-[2-(3-methoxy-phenylamino)-quinolin-5-yl]-benzenesulfonamide
The title compound, MS: m/e=442.0 (M+H+), was prepared in accordance with the general method of example 89 from 5-nitro-2-chloroquinoline, 3,5-difluorobenzenesulfonylchloride and m-anisidine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,5-difluorobenzenesulfonylchloride | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
product | 3,5-Difluoro-N-[2-(3-methoxy-phenylamino)-quinolin-5-yl]-benzenesulfonamide | FC=1C=C(C=C(C1)F)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NC1=CC(=CC=C1)OC | C22H17F2N3O3S
